2151-07-19 06:40:00 Physician Resident Progress Note
Chief Complaint: Respiratory failure, septic shock
   24 Hour Events:
 EKG - At [**2151-7-18**] 08:05 AM
   EKG & Rhythm strip
   Patient was restarted on pressors yesterday am.  Pt is currently off
   pressors
   L IJ CVL attempted yesterday without success; likely stenosis; will go
   to IR for R IJ placement today.
   Discussion with wife yesterday.  Decision was made to make patient DNR.
   Diffiuculty with NG tube placement.  Eventually was able to place OG
   tube but got a late start on free water boluses.
   Allergies:
   Iodine
   Hives; Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2151-7-18**] 11:46 AM
   Vancomycin - [**2151-7-18**] 08:15 PM
   Meropenem - [**2151-7-19**] 04:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2151-7-19**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-7-19**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.4
   Tcurrent: 35.8
C (96.4
   HR: 82 (60 - 82) bpm
   BP: 109/55(76) {83/35(53) - 114/58(78)} mmHg
   RR: 20 (18 - 27) insp/min
   SpO2: 97%
   Heart rhythm: V Paced
   Height: 64 Inch
    CVP: 12 (5 - 15)mmHg
   Total In:
                                                                  8,540 mL
                                                                    634 mL
   PO:
   TF:
                                                                     62 mL
                                                                    145 mL
   IVF:
                                                                  7,848 mL
                                                                    239 mL
   Blood products:
   Total out:
                                                                  1,225 mL
                                                                    490 mL
   Urine:
                                                                  1,225 mL
                                                                    490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,315 mL
                                                                    144 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Vent Dependant
   PIP: 31 cmH2O
   SpO2: 97%
   ABG: 7.28/34/86.[**Numeric Identifier 96**]/18/-9
   Ve: 8.5 L/min
   PaO2 / FiO2: 174
   Physical Examination
   Gen: NAD, sedated, unresponsive
   CV: RRR, no M/R/G
   Lungs: decreased breathsounds on L, pt on ventilator with trach in
   place
   Abd: edematous, soft, ntnd
   Ext: cool, dry
   Skin: poor skin integrity, transudate oozing from arms and legs,
   crusting breaks in skin on across face (in distribution of tape)
   Labs / Radiology
   63 K/uL
   8.5 g/dL
   132 mg/dL
   1.3 mg/dL
   18 mEq/L
   4.2 mEq/L
   87 mg/dL
   130 mEq/L
   154 mEq/L
   26.5 %
   42.5 K/uL
        [image002.jpg]
                             [**2151-7-17**]  11:00 PM
                             [**2151-7-18**]  03:58 AM
                             [**2151-7-18**]  04:13 AM
                             [**2151-7-18**]  07:13 AM
                             [**2151-7-18**]  04:00 PM
   WBC
   29.3
   17.9
   42.5
   Hct
   30.0
   27.0
   26
   26.5
   Plt
   82
   57
   63
   Cr
   1.5
   1.3
   1.3
   TropT
   0.21
   0.41
   TCO2
   18
   17
   Glucose
   390
   362
   316
   232
   132
   Other labs: PT / PTT / INR:14.2/24.2/1.2, CK / CKMB /
   Troponin-T:105/12/0.41, ALT / AST:18/30, Alk Phos / T Bili:70/1.0,
   Amylase / Lipase:41/22, Differential-Neuts:45.0 %, Band:0.0 %,
   Lymph:53.4 %, Mono:1.0 %, Eos:0.3 %, D-dimer:3867 ng/mL, Fibrinogen:209
   mg/dL, Lactic Acid:1.1 mmol/L, Albumin:3.0 g/dL, LDH:292 IU/L, Ca++:6.8
   mg/dL, Mg++:2.4 mg/dL, PO4:3.5 mg/dL
   [**2151-7-19**] Vanco trough: 36.3
   [**2151-7-17**] Urine Cx: pending
   [**2151-7-17**] Blood Cx: pending
   [**2151-7-17**] Sputum Cx: pending
   [**2151-7-18**] CXR: NG tube in place; R subclavian terminates in R IJ
   Assessment and Plan
   85 y/o M h/o CAD s/p CABG, dCHF, CRI, AFib on coumadin, CHB s/p pacer,
   CLL, s/p tracheostomy transferred for management of respiratory failure
   and septic shock.
   #Resp Failure - s/p tracheostomy; records incomplete but suspect
   hypoxic resp failure in the setting of septic shock, airway collapse;
   bronchoscopy revealed friable airways, bronchomalacia, mucous, old
   blood; also consider cardiogenic shock in light of PMH but appears
   intravascularly volume depleted with preserved LV fxn with asymmetric
   lung fields on CXR; also recurrent lymphoma or another primary
   malignancy remains on DDx (had bloody tap [**5-5**])
   -cont. full vent support AC 500/20/5; wean FiO2 to maintain sats>92%,
   PO2 > 60; ventilate to maintain art pH > 7.2
   -chest CT when stable to eval for loculated effusion, empyema, PE
   -albuterol nebs PRN
   .
   #Septic shock
 restarted on pressors since this AM; presumed [**1-30**] PNA
   based on CXR, OSH records; bronch findings c/w severe hemorrhagic
   aspiration PNA (does have bad dentition); also consider line sepsis or
   translocation of skin flora; less likely GI/GU source; was treated with
   high-dose steroids @ OSH then apparently stopped abruptly, which may be
   contributing to hypotension
   -LR boluses to maintain CVP 8-10 (current line is inaccurate, wait for
   new line before measuring CVP)
   -will restart levophed drip if necessary to maintain MAP > 65
   -continue levo/meropenem for double cov
g pseudomonas; vanco for
   skin/line cov
   - vanc trough 36.6----hold morning dose
   -cont hydrocort 100 mg IV q8h
   -follow DIC labs, lactate
   -send to IR today to get R IJ placed and remove R subclavian CVL (send
   tip for culture).
   - should withdrawal current R subclavian CVL several centimeters.
   -blood, urine, BAL GS/Cx pending
   -continue wound care
   #CAD
 +CE
s, but suspect demand ischemia in the setting of pressor-dep
   hypotension and sepsis; EKG unchanged, also diminished renal clearance
   of trop; not a candidate for systemic anticoagulation or cardiac
   intervention
   -will not continue to trend CE's
   -ASA 325, lipitor 80; will not heparinize in setting of
   thrombocytopenia
   -consider TTE
   .
   #Thrombocytopenia - appears chronic, but at high risk for DIC
   -cont. to trend plts, fibrinogen, d-dimer
   -x-fuse for s/sx bleeding or plts < 30
   #Hyperglycemia
 now well controlled; discontinue insulin gtt; start
   SSI
   #Hypernatremia - free H20 deficit ~ 3L; unable to correct yesterday due
   to lack of NG tube;  OG tube now in place will correct [**12-30**] in 24 hrs
   -free H2O bolus 250 cc q4h
   #AFib -
   -holding B-blocker in the setting of hypotension
   -holding coumadin as low level of likely dysfunctional platelets
   .
   #CHF
   -holding diuretics, afterload reducers [**1-30**] hypotension
   .
   CKD - Cr @ b/l
   -cont. to trend
   .
   #Anemia- at/near b/l; has had aranesp in the past; suspect
   multifactorial (CLL, CKD, ACD, Fe/B12-deficiency); no s/sx bleeding
   -T&S
   -guaiac stools
   -x-fuse for <21%
   .
   #CLL - leukocytosis likely in the setting of severe infection;
   lymphocytosis is chronic,
   -consider onc C/S re: cell counts, aranesp, possibility of
   recurrence/new primary in lung
   - for now will notify attending physician who cared for pt in past
   .
   #Sedation: adequate level of sedation, follows commands; denies pain
   -continue fentanyl, versed gtt
   .
   #F/E/N
   -free H20 boluses q4
   -LR boluses to maintain intravascular tone
   -Start tube feeds per nutrition recs
   .
   #PPx - PPI, SQH, bowel regimen
   #CONTACT
 wife is HCP
   .
   #CODE STATUS
 DNR (no CPR, will retrach him if trach tube falls out)
   per discussion with wife [**2151-7-18**]; rediscuss goals of therapy as
   patient
s status changes.
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2151-7-18**] 07:51 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2151-7-17**] 11:35 PM
   Arterial Line - [**2151-7-18**] 02:53 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2151-07-19 10:25:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2151-7-18**] 08:05 AM
   EKG & Rhythm strip
   Trial of line change--failed attempt due to difficulty with access of
   vein--IR consulted for aid in catheter placement given mulitiple
   attempts at attending level
   Goals of care discussed in detail with DNR/DNI status confirmed.
   Pressors off this am.
   Allergies:
   Iodine
   Hives; Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2151-7-18**] 08:15 PM
   Meropenem - [**2151-7-19**] 04:00 AM
   Levofloxacin - [**2151-7-19**] 10:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2151-7-19**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: PACED
   Flowsheet Data as of  [**2151-7-19**] 10:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.4
   Tcurrent: 35.2
C (95.3
   HR: 83 (60 - 88) bpm
   BP: 89/48(63) {83/35(53) - 112/58(78)} mmHg
   RR: 21 (15 - 22) insp/min
   SpO2: 96%
   Heart rhythm: V Paced
   Height: 64 Inch
   CVP: 10 (5 - 15)mmHg
   Total In:
                                                                  8,540 mL
                                                                  1,231 mL
   PO:
   TF:
                                                                     62 mL
                                                                    276 mL
   IVF:
                                                                  7,848 mL
                                                                    456 mL
   Blood products:
   Total out:
                                                                  1,225 mL
                                                                    557 mL
   Urine:
                                                                  1,225 mL
                                                                    557 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,315 mL
                                                                    674 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Vent Dependant
   PIP: 34 cmH2O
   SpO2: 96%
   ABG: ///17/
   Ve: 9.7 L/min
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft
   Extremities: Right: 3+, Left: 3+
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed,
   Sedated, Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   41 K/uL
   164 mg/dL
   1.3 mg/dL
   17 mEq/L
   5.0 mEq/L
   82 mg/dL
   126 mEq/L
   148 mEq/L
   26.2 %
   10.7 K/uL
        [image002.jpg]
                             [**2151-7-17**]  11:00 PM
                             [**2151-7-18**]  03:58 AM
                             [**2151-7-18**]  04:13 AM
                             [**2151-7-18**]  07:13 AM
                             [**2151-7-18**]  04:00 PM
                             [**2151-7-19**]  05:40 AM
   WBC
   29.3
   17.9
   42.5
   10.7
   Hct
   30.0
   27.0
   26
   26.5
   26.2
   Plt
   82
   57
   63
   41
   Cr
   1.5
   1.3
   1.3
   1.3
   TropT
   0.21
   0.41
   TCO2
   18
   17
   Glucose
   390
   362
   316
   232
   132
   164
   Other labs: PT / PTT / INR:14.1/24.4/1.2, CK / CKMB /
   Troponin-T:105/12/0.41, ALT / AST:18/30, Alk Phos / T Bili:70/1.0,
   Amylase / Lipase:41/22, Differential-Neuts:45.0 %, Band:0.0 %,
   Lymph:53.4 %, Mono:1.0 %, Eos:0.3 %, D-dimer:3867 ng/mL, Fibrinogen:238
   mg/dL, Lactic Acid:1.1 mmol/L, Albumin:3.0 g/dL, LDH:292 IU/L, Ca++:6.5
   mg/dL, Mg++:2.3 mg/dL, PO4:4.3 mg/dL
   CXR
Trach tube in trachea
need for advance, right SCV-line into IJ, OGT
   past diaphragm, volume loss on left persists
   Assessment and Plan
   85 yo male with history of CAD, CHF, CRF, A-Fib, S/P pacer, s/p
   Tracheostomy and CLL now admit with sepsis and persistent hypotension.
   He has primary source remaining to be defined and treated fully and at
   this point retains a significant risk for nosocomial infection and skin
   source certainly possible.
   Sepsis--Has had WBC improving and no significant recurrence of lactic
   acidosis which is likely significant. His primary insult is likely
   pneuomonia and complication by left sided lung collapse and possible
   traumatic left chest injury raising question of hemothorax.
   Hydrocortisone/Levophed--levophed off this morning, will taper steroids
   to off over [**5-4**] day course
   Vanco/Meropenem/Levoflox-
   -IVF bolus as needed
   -CVL to be relaced
   -Pacer increased to 80 bpm
   Respiratory Failure-
   This is hypoxemic respiratory failure and has likely left sided
   infiltrate and collapse being a driving factor
   CT scan to evaluate for extend of pleural fluid collection and will
   need CT today to evaluate extent and source of left sided
   collapse/restriction.
   -Continue with A/C support
   Thrombocytopenia -
   -This is a reasonably quick drop over past two days
   -Will need full investigation as to source given acute decrease
   -Will start with DIC labs to evaluate
   -Has persistently low PLTS at this time
doubt new insult outside of
   sepsis and likely some component of DIC
   gg
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2151-7-19**] 08:17 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2151-7-17**] 11:35 PM
is a 20cm TLC with advancement into
   Right IJ
will pull back 5 cm and re-secure pending IR replacement.
   Arterial Line - [**2151-7-18**] 02:53 AM
   Prophylaxis:
   DVT: Boots
the issue of thrombocytopenia makes anti-coagulation less
   appropriate at this time.
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: No CPR, continue with maximum medical management
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill

2151-07-20 06:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**7-19**] Chest Ct
   1. New diffuse ground-glass opacities, likely due to hydrostatic edema.
   Less
   likely consideration is a diffuse infectious process.
   2. New moderate right and small left pleural effusions, difficult to
   assess for simple fluid versus hemorrhagic density due to extensive
   streak
   artifact from suboptimal arm positioning.
   3. Resolving collapse of the left lung with apparent intraluminal
   secretions
   in the left main stem bronchus and atelectasis versus a small focus of
   consolidation in the lingula. Unchanged rounded atelectasis on the left
   lower
   lobe.
   3. Tracheostomy in place with secretions in the trachea above the level
   of
   the stoma.
   [**7-19**] TTE - Mild symmetric LVH with preserved regional and global LV
   systolic function. RV systolic function cannot be accurately assessed.
   Moderate mitral and trace aortic regurgitation. Moderate pulmonary
   artery systolic hypertension. Massive biatrial enlargement.
   Compared with the prior study (images reviewed) of [**2150-5-23**], the
   rhythm now appears to be atrial fibrillation. The other findings are
   similar.
   0000 ABG 7.25/36/76/17 (40%)
 FiO2 incr. to 50%
   0500 MAP 49 levophed incr. to 0.05 mcg/kg/min
   Allergies:
   Iodine
   Hives; Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2151-7-18**] 08:15 PM
   Levofloxacin - [**2151-7-19**] 10:00 AM
   Meropenem - [**2151-7-20**] 04:00 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-7-20**] 06:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.7
C (96.2
   Tcurrent: 35.6
C (96.1
   HR: 80 (72 - 88) bpm
   BP: 101/34(51) {89/34(49) - 101/38(51)} mmHg
   RR: 24 (10 - 29) insp/min
   SpO2: 99%
   Heart rhythm: V Paced
   Height: 64 Inch
    CVP: 8 (3 - 13)mmHg
   Total In:
                                                                  6,082 mL
                                                                  1,153 mL
   PO:
   TF:
                                                                    925 mL
                                                                    264 mL
   IVF:
                                                                  3,907 mL
                                                                    389 mL
   Blood products:
   Total out:
                                                                    714 mL
                                                                    175 mL
   Urine:
                                                                    714 mL
                                                                    175 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,368 mL
                                                                    978 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 460 (460 - 500) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 29 cmH2O
   Plateau: 21 cmH2O
   SpO2: 99%
   ABG: 7.25/36/76.[**Numeric Identifier 128**]/16/-10
   Ve: 9.9 L/min
   PaO2 / FiO2: 152
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   55 K/uL
   8.6 g/dL
   221 mg/dL
   1.4 mg/dL
   16 mEq/L
   5.2 mEq/L
   86 mg/dL
   121 mEq/L
   145 mEq/L
   26.3 %
   33.4 K/uL
        [image002.jpg]
                             [**2151-7-17**]  11:00 PM
                             [**2151-7-18**]  03:58 AM
                             [**2151-7-18**]  04:13 AM
                             [**2151-7-18**]  07:13 AM
                             [**2151-7-18**]  04:00 PM
                             [**2151-7-19**]  05:40 AM
                             [**2151-7-19**]  05:14 PM
                             [**2151-7-19**]  05:16 PM
                             [**2151-7-19**]  05:35 PM
                             [**2151-7-20**]  12:08 AM
   WBC
   29.3
   17.9
   42.5
   10.7
   33.4
   Hct
   30.0
   27.0
   26
   26.5
   26.2
   26.3
   Plt
   82
   57
   63
   41
   55
   Cr
   1.5
   1.3
   1.3
   1.3
   1.5
   1.4
   TropT
   0.21
   0.41
   TCO2
   18
   17
   16
   17
   Glucose
   390
   362
   316
   232
   132
   164
   258
   221
   Other labs: PT / PTT / INR:13.5/25.2/1.2, CK / CKMB /
   Troponin-T:105/12/0.41, ALT / AST:18/30, Alk Phos / T Bili:70/1.0,
   Amylase / Lipase:41/22, Differential-Neuts:45.0 %, Band:0.0 %,
   Lymph:53.4 %, Mono:1.0 %, Eos:0.3 %, D-dimer:3867 ng/mL, Fibrinogen:238
   mg/dL, Lactic Acid:1.0 mmol/L, Albumin:3.0 g/dL, LDH:292 IU/L, Ca++:6.8
   mg/dL, Mg++:2.3 mg/dL, PO4:5.1 mg/dL
   Assessment and Plan
   85 y/o M h/o CAD s/p CABG, dCHF, CRI, AFib on coumadin, CHB s/p pacer,
   CLL, s/p tracheostomy transferred for management of respiratory failure
   and septic shock.
   #Resp Failure - s/p tracheostomy; records incomplete but suspect
   hypoxic resp failure in the setting of septic shock, airway collapse;
   bronchoscopy revealed friable airways, bronchomalacia, mucous, old
   blood; also consider cardiogenic shock in light of PMH but appears
   intravascularly volume depleted with preserved LV fxn with asymmetric
   lung fields on CXR; also recurrent lymphoma or another primary
   malignancy remains on DDx (had bloody tap [**5-5**])
   -cont. full vent support AC 500/20/5; wean FiO2 to maintain sats>92%,
   PO2 > 60; ventilate to maintain art pH > 7.2
   -chest CT when stable to eval for loculated effusion, empyema, PE
   -albuterol nebs PRN
   .
   #Septic shock
 restarted on pressors since this AM; presumed [**1-30**] PNA
   based on CXR, OSH records; bronch findings c/w severe hemorrhagic
   aspiration PNA (does have bad dentition); also consider line sepsis or
   translocation of skin flora; less likely GI/GU source; was treated with
   high-dose steroids @ OSH then apparently stopped abruptly, which may be
   contributing to hypotension
   -LR boluses to maintain CVP 8-10 (current line is inaccurate, wait for
   new line before measuring CVP)
   -will restart levophed drip if necessary to maintain MAP > 65
   -continue levo/meropenem for double cov
g pseudomonas; vanco for
   skin/line cov
   - vanc trough 36.6----hold morning dose
   -cont hydrocort 100 mg IV q8h
   -follow DIC labs, lactate
   -send to IR today to get R IJ placed and remove R subclavian CVL (send
   tip for culture).
   - should withdrawal current R subclavian CVL several centimeters.
   -blood, urine, BAL GS/Cx pending
   -continue wound care
   #CAD
 +CE
s, but suspect demand ischemia in the setting of pressor-dep
   hypotension and sepsis; EKG unchanged, also diminished renal clearance
   of trop; not a candidate for systemic anticoagulation or cardiac
   intervention
   -will not continue to trend CE's
   -ASA 325, lipitor 80; will not heparinize in setting of
   thrombocytopenia
   -consider TTE
   .
   #Thrombocytopenia - appears chronic, but at high risk for DIC
   -cont. to trend plts, fibrinogen, d-dimer
   -x-fuse for s/sx bleeding or plts < 30
   #Hyperglycemia
 now well controlled; discontinue insulin gtt; start
   SSI
   #Hypernatremia - free H20 deficit ~ 3L; unable to correct yesterday due
   to lack of NG tube;  OG tube now in place will correct [**12-30**] in 24 hrs
   -free H2O bolus 250 cc q4h
   #AFib -
   -holding B-blocker in the setting of hypotension
   -holding coumadin as low level of likely dysfunctional platelets
   .
   #CHF
   -holding diuretics, afterload reducers [**1-30**] hypotension
   .
   CKD - Cr @ b/l
   -cont. to trend
   .
   #Anemia- at/near b/l; has had aranesp in the past; suspect
   multifactorial (CLL, CKD, ACD, Fe/B12-deficiency); no s/sx bleeding
   -T&S
   -guaiac stools
   -x-fuse for <21%
   .
   #CLL - leukocytosis likely in the setting of severe infection;
   lymphocytosis is chronic,
   -consider onc C/S re: cell counts, aranesp, possibility of
   recurrence/new primary in lung
   - for now will notify attending physician who cared for pt in past
   .
   #Sedation: adequate level of sedation, follows commands; denies pain
   -continue fentanyl, versed gtt
   .
   #F/E/N
   -free H20 boluses q4
   -LR boluses to maintain intravascular tone
   -Start tube feeds per nutrition recs
   .
   #PPx - PPI, SQH, bowel regimen
   #CONTACT
 wife is HCP
   .
   #CODE STATUS
 DNR (no CPR, will retrach him if trach tube falls out)
   per discussion with wife [**2151-7-18**]; rediscuss goals of therapy as
   patient
s status changes.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2151-7-19**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2151-07-20 10:23:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - START [**2151-7-19**] 03:00 PM
 MULTI LUMEN - STOP [**2151-7-19**] 04:00 PM
   inserted in OSH
 ARTERIAL LINE - STOP [**2151-7-20**] 04:00 AM
   7.25/36/76 on O/N ABG
   -Levophed increase required overnight for decrease in BP
   -CVL exchanged in IR
   History obtained from [**Hospital 85**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Iodine
   Hives; Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2151-7-18**] 08:15 PM
   Levofloxacin - [**2151-7-19**] 10:00 AM
   Meropenem - [**2151-7-20**] 04:00 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-7-20**] 10:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 36
C (96.8
   HR: 80 (72 - 87) bpm
   BP: 94/46(58) {89/34(49) - 110/50(63)} mmHg
   RR: 24 (10 - 31) insp/min
   SpO2: 99%
   Heart rhythm: V Paced
   Height: 64 Inch
   CVP: 7 (3 - 13)mmHg
   Total In:
                                                                  6,082 mL
                                                                  1,625 mL
   PO:
   TF:
                                                                    925 mL
                                                                    405 mL
   IVF:
                                                                  3,907 mL
                                                                    470 mL
   Blood products:
   Total out:
                                                                    714 mL
                                                                    255 mL
   Urine:
                                                                    714 mL
                                                                    255 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,368 mL
                                                                  1,370 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 460 (460 - 500) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 29 cmH2O
   Plateau: 20 cmH2O
   SpO2: 99%
   ABG: 7.25/36/76.[**Numeric Identifier 128**]/17/-10
   Ve: 10.2 L/min
   PaO2 / FiO2: 152
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.9 g/dL
   66 K/uL
   254 mg/dL
   1.5 mg/dL
   17 mEq/L
   5.0 mEq/L
   89 mg/dL
   120 mEq/L
   143 mEq/L
   27.3 %
   35.4 K/uL
        [image002.jpg]
                             [**2151-7-18**]  03:58 AM
                             [**2151-7-18**]  04:13 AM
                             [**2151-7-18**]  07:13 AM
                             [**2151-7-18**]  04:00 PM
                             [**2151-7-19**]  05:40 AM
                             [**2151-7-19**]  05:14 PM
                             [**2151-7-19**]  05:16 PM
                             [**2151-7-19**]  05:35 PM
                             [**2151-7-20**]  12:08 AM
                             [**2151-7-20**]  08:22 AM
   WBC
   17.9
   42.5
   10.7
   33.4
   35.4
   Hct
   27.0
   26
   26.5
   26.2
   26.3
   27.3
   Plt
   57
   63
   41
   55
   66
   Cr
   1.3
   1.3
   1.3
   1.5
   1.4
   1.5
   TropT
   0.41
   TCO2
   18
   17
   16
   17
   Glucose
   362
   316
   232
   132
   164
   258
   221
   254
   Other labs: PT / PTT / INR:13.9/23.0/1.2, CK / CKMB /
   Troponin-T:105/12/0.41, ALT / AST:18/30, Alk Phos / T Bili:70/1.0,
   Amylase / Lipase:41/22, Differential-Neuts:45.0 %, Band:0.0 %,
   Lymph:53.4 %, Mono:1.0 %, Eos:0.3 %, D-dimer:3867 ng/mL, Fibrinogen:238
   mg/dL, Lactic Acid:1.0 mmol/L, Albumin:3.0 g/dL, LDH:292 IU/L, Ca++:6.9
   mg/dL, Mg++:2.3 mg/dL, PO4:4.8 mg/dL
   Imaging: CT Chest--multiple bilateral ground glass opacities noted,
   improving collapse on left side, bilateral effusions with small left
   sided effusion and larger right sided effusion.
   ECG: ECHO--EF-55%, symmetric LVH, mod PAH, [**Hospital1 **]-atrial enlargement
   without significant change in function.
   Assessment and Plan
   85 yo male admit with septic shock and respiratory failure and by ECHO
   preserved cardiac function in that setting.
   Respiratory Failure-
   He has findings consistent with ARDS based on findings on film and P/F
   ratio although his course has been a chronic one.  He has Pplat of 25
   this morning giving him a compliance of 20 which is very poor.  The
   contributions are LLL collapse, bilateral effusions with right>left as
   possible co-contributors.
   -Will ventilate with low Vt
and Vt goal will be maintained at <450cc if
   possible
   -Will Rx underlying pneumonia as GNR
s and GPC
s on
   sputum
Vanco/levo/[**Last Name (un) **]
   -FIO2 to decrease to 50% and will titrate PEEP to optimize as possible
   over the course of the day
   Sepsis-Likely pulmonary source based on radiology findings
   -Levophed
   -Hydorcortisone
   -Meropenem/Levofloxacin/Vancomycin
   -Unclear if he has optimal volume status to facilitate wean of
   pressors.
   -Will follow up on culture results
   -[**Month (only) 60**] need increased volume to facilitate resolution
at this point he
   has CVP clearly 10 with minimal evidence of variation with respiration.
   -Check CVO2 if worsening seen
   Thrombocytopenia-Platelets persist at baseline without signfiicant
   change.  Is in setting of CLL diagnosis
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2151-7-20**] 06:26 AM 40 mL/hour, Free water bolus
   Glycemic Control:
   Lines:
   Multi Lumen - [**2151-7-19**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
Given profound and persistent failure we will need to
   update family on expected course of illness which at this time
   represents a possible prolonged stay in fully supported setting if able
   to achieve even that level of stability.
   Total time spent: 45 minutes
   Patient is critically ill

2151-07-21 07:13:00 Physician Resident Progress Note
Chief Complaint:
   85 y/o M h/o CAD s/p CABG, dCHF, CRI, AFib on coumadin, CHB s/p pacer,
   CLL, s/p tracheostomy transferred for management of respiratory failure
   and septic shock.
   24 Hour Events:
 ARTERIAL LINE - replaced yesterday
   --> family meeting and they would like everything to be done short of
   chest compressions and shocks.
   --> back on insulin gtt - between TF and steroids hyperglycemia
   --> nurse [**First Name (Titles) 2090**] [**Last Name (Titles) 3760**] like material around trach early this am, OG was
   placed on suction with high residuals.  TF being held, concern re:
   placement -- CXR done & repeated to confirm placement.
 patient requiring increasing doses of pressors
   --> trach problem:  when you remove the inner cannula of the trach,
   resp therapist can't ventilate the patient.
   Allergies:
   Iodine
   Hives; Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2151-7-18**] 08:15 PM
   Levofloxacin - [**2151-7-20**] 10:31 AM
   Meropenem - [**2151-7-21**] 04:13 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-7-21**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.6
C (96.1
   HR: 80 (76 - 82) bpm
   BP: 100/44(63) {87/41(59) - 108/50(70)} mmHg
   RR: 23 (14 - 39) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
   Height: 64 Inch
    CVP: 10 (7 - 11)mmHg
   Total In:
                                                                  3,874 mL
                                                                    649 mL
   PO:
   TF:
                                                                    997 mL
                                                                     53 mL
   IVF:
                                                                  1,376 mL
                                                                    346 mL
   Blood products:
   Total out:
                                                                    515 mL
                                                                    995 mL
   Urine:
                                                                    515 mL
                                                                    170 mL
   NG:
                                                                    825 mL
   Stool:
   Drains:
   Balance:
                                                                  3,359 mL
                                                                   -346 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 460 (460 - 460) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 24 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: 7.28/37/101/16/-8
   Ve: 10.4 L/min
   PaO2 / FiO2: 202
   Physical Examination
   Gen: intubated and sedated, neck with right subclavian central line in
   place
   Lungs: vent breath sounds anteriorly
   CV: RRR, s1 & s2 nl, no m/r/g
   Abd: no BS, non-distended, no masses.
   Ext: skin with areas of breakdown diffusely and serous weeping from
   those sites.
   Labs / Radiology
   69 K/uL
   8.4 g/dL
   47 mg/dL
   1.7 mg/dL
   16 mEq/L
   5.4 mEq/L
   94 mg/dL
   119 mEq/L
   142 mEq/L
   25.3 %
   48.2 K/uL
        [image002.jpg]
                             [**2151-7-18**]  04:00 PM
                             [**2151-7-19**]  05:40 AM
                             [**2151-7-19**]  05:14 PM
                             [**2151-7-19**]  05:16 PM
                             [**2151-7-19**]  05:35 PM
                             [**2151-7-20**]  12:08 AM
                             [**2151-7-20**]  08:22 AM
                             [**2151-7-20**]  08:00 PM
                             [**2151-7-21**]  03:53 AM
                             [**2151-7-21**]  04:03 AM
   WBC
   42.5
   10.7
   33.4
   35.4
   48.2
   Hct
   26.5
   26.2
   26.3
   27.3
   25.3
   Plt
   63
   41
   55
   66
   69
   Cr
   1.3
   1.3
   1.5
   1.4
   1.5
   1.7
   TCO2
   16
   17
   17
   18
   Glucose
   132
   164
   258
   221
   254
   49
   47
   Other labs: PT / PTT / INR:13.4/25.4/1.1,
   CK / CKMB / Troponin-T:105/12/0.41,
   ALT / AST:18/30, Alk Phos / T Bili:70/1.0, Amylase / Lipase:41/22,
   Differential-Neuts:45.0 %, Band:0.0 %, Lymph:53.4 %, Mono:1.0 %,
   Eos:0.3 %, D-dimer:3867 ng/mL, Fibrinogen:380 mg/dL, Lactic Acid:1.0
   mmol/L, Albumin:3.0 g/dL, LDH:292 IU/L,
   Ca++:7.1 mg/dL, Mg++:2.3 mg/dL, PO4:4.4 mg/dL
   Fibrinogen 380, vanco 26.8
   Imaging: CXR x 2 to check placement of NGT -- needs to be advanced. tip
   near GE jctn.
   Microbiology: RESPIRATORY CULTURE (Preliminary):
         HEAVY GROWTH OROPHARYNGEAL FLORA.
         GRAM NEGATIVE ROD(S).    MODERATE GROWTH.
   blood cx - ngtd x2
   uring cx - no growth final
   cath tip - ngtd
   Assessment and Plan
   85 y/o M h/o CAD s/p CABG, dCHF, CRI, AFib on coumadin, CHB s/p pacer,
   CLL, s/p tracheostomy transferred for management of respiratory failure
   and septic shock.
   #Resp Failure
 ARDS in the setting of septic shock, collapse [**1-30**]
   effusion/hemothorax; less likely cardiogenic shock as TTE revealed
   preserved LV fxn; chest CT could not differentiate simple effusion from
   hemorrhage due to artifact
   -cont. AC @ low-Vt ventilation (6 cc/kg IBW) to maintain plateau
   pressures <25 cmH2O
   -may incr. PEEP to improve collapse, allow decr. FiO2 to 40% (maintain
   PO2 >60)
   -albuterol nebs PRN
   #Septic shock
 remains pressor-dependent; presumed [**1-30**] PNA (?
   aspiration), GPC and GNR in sputum; also considering line sepsis (came
   with R subclav) or translocation of skin flora; less likely GI/GU
   source; was treated with high-dose steroids @ OSH then apparently
   stopped abruptly, which may be contributing to hypotension
   -NS boluses to maintain CVP 8-10 (K high so avoid LR)
   -replace A-line, titrate levophed to MAP > 65
   -continue levo/[**Last Name (un) 430**] (day 4) for double cov
g pseudomonas; vanco (day 5)
   for skin/line cov
   - repeat vanco trough (suspect last lab value not a true trough)
   -cont hydrocort 100 mg IV q8h
   -f/u Cx spec/send
   -continue wound care
   -check stool for C. diff & add flagyl
   #leukocytosis
 Increasing WBC with 50% lymphs in patient with h/o CLL
   concern re: recurrent disease.
   -check blood smear and consider consulting heme
   #CAD
 +CE
s, but suspect demand ischemia in the setting of pressor-dep
   hypotension and sepsis; TTE did not show new WMA, EKG unchanged, also
   diminished renal clearance of trop; not a candidate for systemic
   anticoagulation or cardiac intervention
   -ASA 325, lipitor 80; will not heparinize in setting of
   thrombocytopenia
   #Thrombocytopenia - appears chronic; fibrinogen WNL but remains at high
   risk for DIC
   -cont. to trend plts
   -x-fuse for s/sx bleeding or plts < 30
   #Hyperglycemia
 elev. glucose in the setting of stress, steroids, was
   not adequately controlled with RISS; no documented h/o DM or insulin
   resistance
   --d/c insulin gtt as not getting TF.  Will put patient on fs and
   insulin s/s
   #AFib -
   -holding B-blocker in the setting of hypotension
   -holding coumadin as low level of likely dysfunctional platelets
   #CHF
   -holding diuretics, afterload reducers [**1-30**] hypotension
   #CKD - Cr trending up
   -cont. to follow
   -check urine lytes
   #Anemia- at/near b/l; has had aranesp in the past; suspect
   multifactorial (CLL, CKD, ACD, Fe/B12-deficiency); no s/sx bleeding
   -T&S
   -guaiac stools
   -x-fuse for <21%
   #Sedation: adequate level of sedation, follows commands; denies pain
   -continue fentanyl, versed gtt
   #F/E/N  -- patient without bs and with high residuals.
 gut is not
   functioning.  NPO except flagyl.
   -free H20 boluses q4
   -HOLD TF
 patient has been on Nutren Pulm
   -patient
s K is high
 recheck later today and consider giving
   kayexylate although gut not functioning currently.  Reassess later
   today if K still high.
   #PPx
 PPI, venodynes
   #CONTACT
 wife is HCP
   #CODE STATUS
 DNR  (no CPR, no shocks)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2151-7-19**] 03:00 PM
   Arterial Line - [**2151-7-20**] 07:01 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2151-07-21 09:45:00 Physician Attending Progress Note
Chief Complaint: sepsis; resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   84M with multiple medical problems, presented from [**Male First Name (un) **] in
   florid sepsis and respiratory failure, on a trach
   24 Hour Events:
 ARTERIAL LINE - START [**2151-7-20**] 07:01 PM
   fammily meeting yesterday - continue current support including
   ventilator support and pressors for several more days; no chest
   compressions.
   yesterday worsening blood pressure requiring frequent fluid boluses and
   increasing doses of levophed.
   a-line placed.
   wbc continues to increase.
   ogtube draining bilious secretion; tube feeds held due to large
   residuals.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Iodine
   Hives; Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2151-7-18**] 08:15 PM
   Levofloxacin - [**2151-7-20**] 10:31 AM
   Meropenem - [**2151-7-21**] 04:13 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Norepinephrine - 0.13 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, Weight loss
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Emesis, No(t) Diarrhea
   Integumentary (skin): No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Signs or concerns for abuse : No
   Flowsheet Data as of  [**2151-7-21**] 09:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.8
C (96.4
   HR: 80 (76 - 82) bpm
   BP: 97/45(62) {87/41(59) - 108/50(70)} mmHg
   RR: 24 (14 - 39) insp/min
   SpO2: 99%
   Heart rhythm: V Paced
   Height: 64 Inch
   CVP: 10 (10 - 11)mmHg
   Total In:
                                                                  3,874 mL
                                                                    756 mL
   PO:
   TF:
                                                                    997 mL
                                                                     53 mL
   IVF:
                                                                  1,376 mL
                                                                    452 mL
   Blood products:
   Total out:
                                                                    515 mL
                                                                  1,175 mL
   Urine:
                                                                    515 mL
                                                                    350 mL
   NG:
                                                                    825 mL
   Stool:
   Drains:
   Balance:
                                                                  3,359 mL
                                                                   -419 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 460 (460 - 460) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability, No Spon Resp
   PIP: 24 cmH2O
   Plateau: 19 cmH2O
   SpO2: 99%
   ABG: 7.28/37/101/16/-8
   Ve: 10.4 L/min
   PaO2 / FiO2: 202
   Physical Examination
   General Appearance: No(t) Well nourished, Thin
   Eyes / Conjunctiva: No(t) PERRL
   Head, Ears, Nose, Throat: No(t) Endotracheal tube, No(t) NG tube, OG
   tube
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed), a-line
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , Dullness : ), (Breath Sounds: Clear : )
   Extremities: Right: 4+, Left: 4+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed,
   Sedated, Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   69 K/uL
   47 mg/dL
   1.7 mg/dL
   16 mEq/L
   5.4 mEq/L
   94 mg/dL
   119 mEq/L
   142 mEq/L
   25.3 %
   48.2 K/uL
        [image002.jpg]
                             [**2151-7-18**]  04:00 PM
                             [**2151-7-19**]  05:40 AM
                             [**2151-7-19**]  05:14 PM
                             [**2151-7-19**]  05:16 PM
                             [**2151-7-19**]  05:35 PM
                             [**2151-7-20**]  12:08 AM
                             [**2151-7-20**]  08:22 AM
                             [**2151-7-20**]  08:00 PM
                             [**2151-7-21**]  03:53 AM
                             [**2151-7-21**]  04:03 AM
   WBC
   42.5
   10.7
   33.4
   35.4
   48.2
   Hct
   26.5
   26.2
   26.3
   27.3
   25.3
   Plt
   63
   41
   55
   66
   69
   Cr
   1.3
   1.3
   1.5
   1.4
   1.5
   1.7
   TCO2
   16
   17
   17
   18
   Glucose
   132
   164
   258
   221
   254
   49
   47
   Other labs: PT / PTT / INR:13.4/25.4/1.1, CK / CKMB /
   Troponin-T:105/12/0.41, ALT / AST:18/30, Alk Phos / T Bili:70/1.0,
   Amylase / Lipase:41/22, Differential-Neuts:45.0 %, Band:0.0 %,
   Lymph:55.0 %, Mono:0.0 %, Eos:0.0 %, D-dimer:3867 ng/mL, Fibrinogen:380
   mg/dL, Lactic Acid:1.0 mmol/L, Albumin:3.0 g/dL, LDH:292 IU/L, Ca++:7.1
   mg/dL, Mg++:2.3 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   85M with cad, ckd, afib, chb with pacemaker, presents with respiratory
   failure likely from multilobar pna, s/p trach in [**Male First Name (un) **], presented
   in sepsis, now with increasing leukocytosis and increasing requirement
   of pressors, worsening metabolic acidosis. likely etiology is
   persistent sepsis is unclear but includes persistent pna, ?empyema,
   ?abdominal source given high residuals. differential with lymphocytosis
   suggestive of primary heme malignant process given history of cll:
   -continue current vent settings; adequate ventilation and oxygenation
   -continue meropenem, vanco, levo
   -start flagyl empirically for c.diff given rising wbc, new abdominal
   symptioms
   -will need to discuss risks and benefits of thoracentesis / chest tube
   placement if indicated
   -family meeting today to reassess goal of care
   I was present with team on this day for full discussion of patient
   clinical course and would agree in full with the findings of the note
   as described above
I would add the following.
   1)Respiratory Failure-
   -Patient with tracheostomy tube in good position
   -Continues will full ventilator support as delivered in volume cycled
   ventilation
   -Will continue to trial decrease in FIO2.
   -He does have mild improvement in P/F ratio today with continued
   support
   2)Sepsis-Worsening hypotension overnight with increasing doses of
   Levoflox needed.  Fluid bolus had incomplete response and Levophed
   doses were increased.
   Continue with broad spectrum ABX
   Will need to continue search for possible source
persistent
   leukocytosis is of concern
   3)Leukocytosis-
   -On repeat smear there is concern raised for atypical cells
   -Will pursue full Heme evaluation to consider possible hematologic
   malignancy
   ICU Care
   Nutrition: TF
s held with evidence of high residuals
   Glycemic Control:  Insulin infusion, Comments: holding insulin given
   holding tube feeds
   Lines:
   Multi Lumen - [**2151-7-19**] 03:00 PM
   Arterial Line - [**2151-7-20**] 07:01 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Need for restraints reviewed
   Comments:
   Communication: Family meeting held  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2151-07-22 06:55:00 Physician Resident Progress Note
Chief Complaint: septic shock
   24 Hour Events:
 ARTERIAL LINE - STOP [**2151-7-21**] 10:30 AM
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Iodine
   Hives; Rash;
   Last dose of Antibiotics:
   Metronidazole - [**2151-7-21**] 10:30 AM
   Levofloxacin - [**2151-7-21**] 11:11 AM
   Meropenem - [**2151-7-21**] 08:15 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2151-7-22**] 12:20 AM
   Other medications:
   Changes to medical and family history: n/a
   Review of systems is unchanged from admission except as noted below
   Review of systems: pt sedated
   Flowsheet Data as of  [**2151-7-22**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.6
C (96
   HR: 80 (76 - 82) bpm
   BP: 113/50(68) {78/16(47) - 131/69(77)} mmHg
   RR: 23 (17 - 26) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
   Height: 64 Inch
             Total In:
                                                                  1,651 mL
                                                                    216 mL
   PO:
             TF:
                                                                     53 mL
   IVF:
                                                                  1,348 mL
                                                                    216 mL
   Blood products:
   Total out:
                                                                  1,760 mL
                                                                    225 mL
   Urine:
                                                                    935 mL
                                                                    225 mL
   NG:
                                                                    825 mL
   Stool:
   Drains:
   Balance:
                                                                   -109 mL
                                                                     -8 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 460 (460 - 460) mL
   RR (Set): 24
   RR (Spontaneous): 6
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 20 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: ///15/
   Ve: 10.4 L/min
   Physical Examination
   Gen: intubated, sedated
   CV: RRR, nl S1S2 no m/r/g
   PULM: coarse ventilated BS anteriorly
   ABD: hypoactive BS distended NT no guarding
   EXT: extensive skin breakdown, serous weeping of all 4 ext; dressings
   intact
   Labs / Radiology
   65 K/uL
   8.3 g/dL
   181 mg/dL
   2.0 mg/dL
   15 mEq/L
   5.8 mEq/L
   102 mg/dL
   116 mEq/L
   140 mEq/L
   24.9 %
   47.2 K/uL
                             [**2151-7-19**]  05:14 PM
                             [**2151-7-19**]  05:16 PM
                             [**2151-7-19**]  05:35 PM
                             [**2151-7-20**]  12:08 AM
                             [**2151-7-20**]  08:22 AM
                             [**2151-7-20**]  08:00 PM
                             [**2151-7-21**]  03:53 AM
                             [**2151-7-21**]  04:03 AM
                             [**2151-7-21**]  03:29 PM
                             [**2151-7-22**]  04:19 AM
   WBC
   33.4
   35.4
   48.2
   48.2
   47.2
   Hct
   26.3
   27.3
   25.3
   25.6
   24.9
   Plt
   55
   66
   69
   69
   65
   Cr
   1.5
   1.4
   1.5
   1.7
   1.8
   2.0
   TCO2
   16
   17
   17
   18
   Glucose
   258
   221
   254
   49
   47
   157
   181
   Other labs: PT / PTT / INR:14.7/29.2/1.3, CK / CKMB /
   Troponin-T:105/12/0.41, ALT / AST:18/30, Alk Phos / T Bili:70/1.0,
   Amylase / Lipase:41/22, Differential-Neuts:45.0 %, Band:0.0 %,
   Lymph:55.0 %, Mono:0.0 %, Eos:0.0 %, D-dimer:3867 ng/mL, Fibrinogen:380
   mg/dL, Lactic Acid:1.0 mmol/L, Albumin:3.0 g/dL, LDH:292 IU/L, Ca++:7.1
   mg/dL, Mg++:2.5 mg/dL, PO4:5.6 mg/dL
   [**7-18**] Sputum Cx
 mod growth p. aeruginosa
   [**7-19**] R subclav cath tip Cx - neg
   [**7-21**] Urine legionella AG
 neg
   [**7-21**] Sputum GS
 no organisms
   Assessment and Plan
   85 y/o M h/o CAD s/p CABG, dCHF, CRI, AFib on coumadin, CHB s/p pacer,
   CLL, s/p tracheostomy transferred for management of respiratory failure
   and septic shock.
   .
   #Resp Failure
 ARDS in the setting of septic shock, collapse [**1-30**]
   effusion/hemothorax; less likely cardiogenic shock as TTE revealed
   preserved LV fxn; chest CT could not differentiate simple effusion from
   hemorrhage due to artifact
   -cont. AC @ low-Vt ventilation (6 cc/kg IBW) to maintain plateau
   pressures <25 cmH2O
   -may incr. PEEP to improve collapse, allow decr. FiO2 to 40% (maintain
   PO2 >60)
   -albuterol nebs PRN
   .
   #Septic shock
 remains pressor-dependent; presumed [**1-30**] PNA (?
   aspiration), GPC and GNR in sputum; also considering line sepsis (came
   with R subclav) or translocation of skin flora; less likely GI/GU
   source; was treated with high-dose steroids @ OSH then apparently
   stopped abruptly, which may be contributing to hypotension
   -NS boluses to maintain CVP 8-10 (K high so avoid LR)
   -replace A-line, titrate levophed to MAP > 65
   -continue levo/[**Last Name (un) 430**] (day 4) for double cov
g pseudomonas; vanco (day 5)
   for skin/line cov
   - repeat vanco trough (suspect last lab value not a true trough)
   -cont hydrocort 100 mg IV q8h
   -f/u Cx spec/send
   -continue wound care
   -check stool for C. diff & add flagyl
   .
   #Leukocytosis
 Increasing WBC with 50% lymphs in patient with h/o CLL
   concern re: recurrent disease.
   -flagyl started empirically for c. diff
   -check blood smear and consider consulting heme
   .
   #ARF
 suspect pre-renal azotemia as appears intravascularly volume
   depleted
   -fluid challenge
   -urine lytes
   .
   #CAD
 +CE
s, but suspect demand ischemia in the setting of pressor-dep
   hypotension and sepsis; TTE did not show new WMA, EKG unchanged, also
   diminished renal clearance of trop; not a candidate for systemic
   anticoagulation or cardiac intervention
   -ASA 325, lipitor 80; will not heparinize in setting of
   thrombocytopenia
   .
   #Thrombocytopenia - appears chronic; fibrinogen WNL but remains at high
   risk for DIC
   -cont. to trend plts
   -x-fuse for s/sx bleeding or plts < 30
   #Hyperglycemia
 elev. glucose in the setting of stress, steroids, was
   not adequately controlled with RISS; no documented h/o DM or insulin
   resistance
   --d/c insulin gtt as not getting TF.  Will put patient on fs and
   insulin s/s
   #AFib -
   -holding B-blocker in the setting of hypotension
   -holding coumadin as low level of likely dysfunctional platelets
   #CHF
   -holding diuretics, afterload reducers [**1-30**] hypotension
   #Anemia- at/near b/l; has had aranesp in the past; suspect
   multifactorial (CLL, CKD, ACD, Fe/B12-deficiency); no s/sx bleeding
   -T&S
   -guaiac stools
   -x-fuse for <21%
   #Sedation: adequate level of sedation, follows commands; denies pain
   -continue fentanyl, versed gtt
   #F/E/N  -- patient without bs and with high residuals.
 gut is not
   functioning.  NPO except flagyl.
   -free H20 boluses q4
   -HOLD TF
 patient has been on Nutren Pulm
   -patient
s K is high
 recheck later today and consider giving
   kayexylate although gut not functioning currently.  Reassess later
   today if K still high.
   #PPx
 PPI, venodynes
   .
   #CONTACT
 wife is HCP
   .
   #CODE STATUS
 DNR
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2151-7-19**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2151-07-22 09:19:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2151-7-21**] 10:30 AM
   Peripheral Smear to be evaluate by Hematology for possible smudge cells
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Iodine
   Hives; Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2151-7-21**] 11:11 AM
   Meropenem - [**2151-7-21**] 08:15 PM
   Metronidazole - [**2151-7-22**] 08:55 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Norepinephrine - 0.18 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2151-7-22**] 12:20 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-7-22**] 09:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.6
C (96
   HR: 80 (76 - 82) bpm
   BP: 113/49(65) {78/16(47) - 131/69(77)} mmHg
   RR: 24 (17 - 26) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
   Height: 64 Inch
             Total In:
                                                                  1,654 mL
                                                                    391 mL
   PO:
             TF:
                                                                     53 mL
   IVF:
                                                                  1,350 mL
                                                                    391 mL
   Blood products:
   Total out:
                                                                  1,760 mL
                                                                    225 mL
   Urine:
                                                                    935 mL
                                                                    225 mL
   NG:
                                                                    825 mL
   Stool:
   Drains:
   Balance:
                                                                   -106 mL
                                                                    166 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 460 (460 - 460) mL
   RR (Set): 24
   RR (Spontaneous): 3
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 25 cmH2O
   Plateau: 17 cmH2O
   SpO2: 100%
   ABG: ///15/
   Ve: 10 L/min
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Trach Tube in good position
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness :
   Right base), (Breath Sounds: Crackles : , Bronchial: , Rhonchorous: )
   Abdominal: Soft, Non-tender
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: verbal stimuli--appropriate, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   65 K/uL
   181 mg/dL
   2.0 mg/dL
   15 mEq/L
   5.8 mEq/L
   102 mg/dL
   116 mEq/L
   140 mEq/L
   24.9 %
   47.2 K/uL
        [image002.jpg]
                             [**2151-7-19**]  05:14 PM
                             [**2151-7-19**]  05:16 PM
                             [**2151-7-19**]  05:35 PM
                             [**2151-7-20**]  12:08 AM
                             [**2151-7-20**]  08:22 AM
                             [**2151-7-20**]  08:00 PM
                             [**2151-7-21**]  03:53 AM
                             [**2151-7-21**]  04:03 AM
                             [**2151-7-21**]  03:29 PM
                             [**2151-7-22**]  04:19 AM
   WBC
   33.4
   35.4
   48.2
   48.2
   47.2
   Hct
   26.3
   27.3
   25.3
   25.6
   24.9
   Plt
   55
   66
   69
   69
   65
   Cr
   1.5
   1.4
   1.5
   1.7
   1.8
   2.0
   TCO2
   16
   17
   17
   18
   Glucose
   258
   221
   254
   49
   47
   157
   181
   Other labs: PT / PTT / INR:14.7/29.2/1.3, CK / CKMB /
   Troponin-T:105/12/0.41, ALT / AST:18/30, Alk Phos / T Bili:70/1.0,
   Amylase / Lipase:41/22, Differential-Neuts:45.0 %, Band:0.0 %,
   Lymph:55.0 %, Mono:0.0 %, Eos:0.0 %, D-dimer:3867 ng/mL, Fibrinogen:380
   mg/dL, Lactic Acid:1.0 mmol/L, Albumin:3.0 g/dL, LDH:292 IU/L, Ca++:7.1
   mg/dL, Mg++:2.5 mg/dL, PO4:5.6 mg/dL
   Imaging: CXR-Tubes and lines in good positions.  Persistent bilateral
   effusions
   Assessment and Plan
   85 yo male with admission with spesis and respiratory failure now with
   persistent hypotension despite optimal fluid management and
   antibiotics.
   1)Sepsis
   Levophed at persistent doses
   Hydocorisone
   Vanco/[**Last Name (un) **]/Levo/Flagyl
   CvO2=74 consistent with high output state
   Continue with ABX and hope to be able to eliminate infectious source
   with continued antibiotics
   Will tap effusion
   2)Respiratory Failure
Has had reasonable response to continued full
   support and will continue with management with
   -Wean FIO2
   -Continue to monitor ABG
s in response to wean in FIO2
   -Need to evaluate and try to tap effusion for diagnostic purposes but
   is unlikely to represent a mechanical disadvantage limiting weaning.
   3)Acute Renal Failure-
   -Has slow worsening of renal failure and the source is quite likely
   worsening ATN in the setting of persistent sepsis and hypotension.
   -Check FeNA
   -Provide fluid challenge
   -Check Renal U/S if unrevealing and worsening seen.
   4)Leukocytosis-
   -Persistent elevation and Heme to evaluate smear and consider findings
   in light of acute infection.
   gg
   ICU Care
   Nutrition: TF
s held with high residuals seen.  Will need to trial
   nutrition via enteral route.
   Glycemic Control:  Sliding Scale
   Lines:
   Multi Lumen - [**2151-7-19**] 03:00 PM-_Right IJ
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill